data/core_train_final.csv
"[H:3][O:4][O:5].[O:2][Br:1]>>[H:3][O:2][Br:1].[O:4][O:5] 2-2,3; 3,4-2,3; 3,4-4",Room Temperature,Propagation,abstraction
"[H:6][C:4]([H:7])([CH3:5])[CH2:3][CH2:2][CH3:1].[Cl:8]>>[H:6][C:4]([CH3:5])[CH2:3][CH2:2][CH3:1].[H:7][Cl:8] 8-8,7;4,7-8,7;4,7-4",Room Temperature,Propagation,abstraction
"C[C:10](C)C=C.[Br:20][Br:21]>>C[C:10](C)(C=C)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:5][N:4]1[C:6]2=[CH:7][CH:8]=[CH:9][CH:10]=[C:11]2[C:12](=[O:13])[CH:3][C:2]1=[O:1].[CH2:14]=[CH:15][CH:16]=[CH:17][C:18]1=[CH:19][CH:20]=[CH:21][CH:22]=[CH:23]1>>[CH3:5][N:4]1[C:6]2=[CH:7][CH:8]=[CH:9][CH:10]=[C:11]2[C:12](=[O:13])[CH:3]([C:2]1=[O:1])[CH2:14][CH:15][CH:16]=[CH:17][C:18]3=[CH:19][CH:20]=[CH:21][CH:22]=[CH:23]3 3-3,14; 14,15-3,14; 14,15-15",Room Temperature,Propagation,addition
"C1=CC=C(C=C1)[C:20](=[O:21])[O:10][O:11]C(=O)C2=CC=CC=C2.[He]>>[He].C1=CC=C(C=C1)[C:20](=[O:10])[O:21].C1=CC=C(C=C1)C(=O)[O:11] 10,11-10;10,11-11",Light,Initiation,homolyze
"[O:2][Cl:1].[He]>>[He].[O:2].[Cl:1] 1,2-1; 1,2-2",Light,Initiation,homolyze
"[CH2:1]=[CH:2][CH:3][CH:4]=[CH2:5].[Br:6][Br:7]>>[CH2:1]=[CH:2][CH:3]([CH:4]=[CH2:5])[Br:6].[Br:7] 3-3,6;7,6-3,6;6,7-7",Room Temperature,Propagation,abstraction
"[CH2:21]=[CH:20]Cl.C([CH:10]Cl)O>>[CH2:21][CH:20]([CH:10](CO)Cl)Cl 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][Sn:21](CCCC)(CCCC)CCCC.CCCC[Sn](CCCC)(CCCC)Br.COC(=O)C12CCC(N1C(=O)C3=CC=CC=C3)C(=[C:10][Si](C)(C)C)C2>>[H:20][C:10](=C1CC2(CCC1N2C(=O)C3=CC=CC=C3)C(=O)OC)[Si](C)(C)C.CCCC[Sn:21](CCCC)CCCC.CCCC[Sn](CCCC)(CCCC)Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C1=CC(=C(C(=C1)Br)Br)Br.[Br:10]>>[H:20][Br:10].[CH2:21]C1=CC(=C(C(=C1)Br)Br)Br 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[O:1][O:2][O:3].[Br:4]>>[O:1][O:2].[O:3][Br:4] 4-4,3; 2,3-4,3; 2,3-2",Room Temperature,Propagation,abstraction
"CCCC[Sn:10](CCCC)CCCC.C/C(=C\CC(C/C=C/C(=O)OC)(C(=O)OC)C(=O)OC)/CC/C=[CH:21]\[I:20]>>CCCC[Sn:10](CCCC)(CCCC)[I:20].C/C(=C\CC(C/C=C/C(=O)OC)(C(=O)OC)C(=O)OC)/CC/C=[CH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC12CCCC[C:10]1CCCC2.[Br:20][Br:21]>>CC12CCCC[C:10]1(CCCC2)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([H:7])([CH2:2][CH3:1])[CH2:5][CH3:6].[Cl:8]>>[H:4][C:3]([CH2:2][CH3:1])[CH2:5][CH3:6].[H:7][Cl:8] 8-7,8;3,7-8,7;3,7-3",Room Temperature,Propagation,abstraction
"C[C:21]1=[CH:20]CCCC1.[Br:10]>>C[C:21]1CCCC[CH:20]1[Br:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC[Sn:20](CCCC)CCCC.COC(=O)C1(CCCN1C(=O)C2=[C:11](C=CC=C2)[Br:10])CC#C[Si](C)(C)C>>CCCC[Sn:20](CCCC)(CCCC)[Br:10].COC(=O)C1(CCCN1C(=O)C2=[C:11]C=CC=C2)CC#C[Si](C)(C)C 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[He:23].[CH3:6][C:5]([CH3:7])([CH3:8])[N:3]([C:2](=[O:1])[C:9]1=[CH:10][C:11](=[CH:16][C:17](=[CH:22]1)[C:18]([F:19])([F:20])[F:21])[C:12]([F:13])([F:14])[F:15])[Cl:4]>>[He:23].[CH3:8][C:5]([CH3:6])([CH3:7])[N:3][C:2](=[O:1])[C:9]1=[CH:22][C:17](=[CH:16][C:11](=[CH:10]1)[C:12]([F:15])([F:14])[F:13])[C:18]([F:19])([F:21])[F:20].[Cl:4] 3,4-4; 3,4-3",Room Temperature,Initiation,homolyze
"CCCC[Sn:20](CCCC)CCCC.C=CCCC[CH2:11][Br:10]>>CCCC[Sn:20](CCCC)(CCCC)[Br:10].[CH2:11]CCCC=C 10,11-10,20;10,11-11;20-10,20",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])[H:4].[O:5][O:6]>>[H:1][C:2]([H:3])([H:4])[O:6][O:5] 2-2,6; 6-2,6",Room Temperature,Termination,recombine
"[CH2:5]=[CH:6][C:7]#[N:8].[O-:3][S:2](=[O:1])=[O:4]>>[CH2:5]([CH:6][C:7]#[N:8])[S:2](=[O:1])(=[O:4])[O-:3] 6,5-5,2;2-2,5;5,6-6",Room Temperature,Propagation,addition
"CCCC(C)CC.[Br:20][Br:21]>>CCCC(C)CC.[Br:20].[Br:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21](C)(C)OC1=CC=CC=C1.[O:10][O]>>[H:20][O:10][O].C[C:21](C)OC1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:21]1=[CH:20]CC2C(C1)C2(C)C.[N+](=O)([O-])[O:10]>>C[C:21]1CC2C(C2(C)C)C[CH:20]1[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][S:21]CCC1=CC=CC=C1.C[C:10](C1CCC(C1CSCCC2=CC=CC=C2)(C)OC(=O)C)C(=O)OC>>[H:20][C:10](C)(C1CCC(C1CSCCC2=CC=CC=C2)(C)OC(=O)C)C(=O)OC.C1=CC=C(C=C1)CC[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:19]([CH2:21][CH2:22][CH2:23][C:24](=[O:26])[OH:25])[CH:18]=[C:4]([H:3])[CH:5]=[CH:6][CH2:7][CH:8]=[CH:9][CH2:10][CH:11]=[CH:12][CH2:13][CH2:14][CH2:15][CH2:16][CH3:17].[O:1][O:2]>>[H:3][C:4](=[CH:18][C:19]([H:20])([CH2:21][CH2:22][CH2:23][C:24](=[O:26])[OH:25])[O:1][O:2])[CH:5]=[CH:6][CH2:7][CH:8]=[CH:9][CH2:10][CH:11]=[CH:12][CH2:13][CH2:14][CH2:15][CH2:16][CH3:17] 19-19,1;1-1,19",Room Temperature,Termination,recombine
